US07745641B2
In a similar manner to Step 2 of Example 1, 4-chloro-7-iodoisoindolinone (100 mg, 0.341 mmol) was dissolved in acetonitrile (7 mL), and the solution was treated with 1-(tert-butoxycarbonyl)indol-2-boronic acid (178 mg, 0.682 mmol), palladium acetate (6.1 mg, 0.027 mmol), tri(o-tolyl)phosphine (17 mg, 0.055 mmol) and triethylamine (0.475-mL, 3.41 mmol), followed by purification by preparative thin-layer chromatography (chloroform/methanol=30/1) to obtain 4-chloro-7-(1-(tert-butoxycarbonyl)indol-2-yl)isoindolinone (57 mg, yield 44%).

reactant | 4-chloro-7-iodoisoindolinone | 0.341 mmol, 100 mg | ClC1=C2CNC(C2=C(C=C1)I)=O | C8H5ClINO
reactant | 1-(tert-butoxycarbonyl)indol-2-boronic acid | 0.682 mmol, 178 mg | C(C)(C)(C)OC(=O)N1C(=CC2=CC=CC=C12)B(O)O | C13H16BNO4
reactant | tri(o-tolyl)phosphine | 0.055 mmol, 17 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 3.41 mmol, 0.475-mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 7 mL | C(C)#N | C2H3N
catalyst | palladium acetate | 0.027 mmol, 6.1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-chloro-7-(1-(tert-butoxycarbonyl)indol-2-yl)isoindolinone | 57 mg, yield 44% | ClC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=CC=C2C1)C(=O)OC(C)(C)C)=O | C21H19ClN2O3
